US08895547B2
2-Hydroxy-2-methyl-1-[4-(2-morpholin-4-ylethyl)phenyl]propane-1-sulfonamide
A solution of N-(2,4-dimethoxybenzyl)-C-[4-(2-morpholin-4-ylethyl)phenyl]methanesulfonamide (50 mg) in THF (1 ml) was initially charged and then, at −78° C., 1.6 N butyllithium solution in hexane (0.3 ml) was added dropwise. The reaction mixture was stirred for 10 minutes, and then acetone (50 μl) was added dropwise. The mixture was stirred at constant temperature for 30 minutes, trifluoroacetic acid (40 μl) was added and the mixture was allowed to come to room temperature. The solvent was removed under reduced pressure. The residue was dissolved in 2 ml of dichloromethane, and 250 μl of trifluoroacetic acid were added. After stirring at room temperature for 2 h, the mixture was diluted with dichloromethane and extracted with 1 M hydrochloric acid. The aqueous phase was concentrated and the residue was coevaporated with toluene. This gave the crude product with a molecular weight of 378.9 g/mol (C16H26N2O4S), which was used without further purification.

reactant | N-(2,4-dimethoxybenzyl)-C-[4-(2-morpholin-4-ylethyl)phenyl]methanesulfonamide | 50 mg | COC1=C(CNS(=O)(=O)CC2=CC=C(C=C2)CCN2CCOCC2)C=CC(=C1)OC | C22H30N2O5S
reactant | butyllithium | 1.6 N | C(CCC)[Li]
reactant | acetone | 50 μl | CC(=O)C | C3H6O
reactant | trifluoroacetic acid | 40 μl | FC(C(=O)O)(F)F | C2HF3O2
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | hexane | 0.3 ml | CCCCCC | C6H14
product | 2-Hydroxy-2-methyl-1-[4-(2-morpholin-4-ylethyl)phenyl]propane-1-sulfonamide | OC(C(S(=O)(=O)N)C1=CC=C(C=C1)CCN1CCOCC1)(C)C | C16H26N2O4S
